US04130579
In a 2-liter flask, equipped with a magnetic stirrer, a reflux condenser capped with a nigrogen bubbler, and an additional funnel, was placed 7.50 g (0.0312 M) of 1,4-bis(2-methyl-2-cyanopropyl)benzene and 300 ml of reagent grade toluene which had been passed through acid alumina under nitrogen directly into the reaction vessel. With stirring at room temperature, 107 ml of a 24.1% solution (0.150 M) of diisobutylaluminum hydride in toluene was added from the addition funnel in 28 min. The mixture was then refluxed for 16 hrs. After the mixture had been cooled in an ice-water bath, a solution of 6 ml of water in 30 ml of methanol was added dropwise with stirring. This was followed by the dropwise addition of a solution of 30 ml of water in 60 ml of methanol. The mixture was stirred vigorously for 1 hr while being cooled in the ice-water bath, and then for an additional hour at room temperature. The mixture was filtered under nitrogen, the solid was washed thoroughly on the filter with toluene, and the combined filtrate and rinsings were distilled on the water pump. The resulting residue crystallized on cooling to room temperature. Further drying on the oil pump gave 5.28 g (68%) of crude 1,4-bis(2,2-dimethyl-3-aminopropyl)benzene melting at 53°-56° to a cloudy melt. Distillation of this material through a small Vigreux still gave the product as a colorless liquid boiling at 131°-132°/0.60 mm. The solidified material melted to a clear melt at 53.5-54.75°.

reactant | 1,4-bis(2-methyl-2-cyanopropyl)benzene | 0.0312 M, 7.50 g | CC(CC1=CC=C(C=C1)CC(C)(C)C#N)(C)C#N | C16H20N2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | 6 ml | O | H2O
reactant | water | 30 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
product | 1,4-bis(2,2-dimethyl-3-aminopropyl)benzene | 5.28 g, 68% | CC(CC1=CC=C(C=C1)CC(CN)(C)C)(CN)C | C16H28N2
